US07915427B2
(2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carboni trile (259 mg), triethylamine (0.42 mL), trimethylamine hydrochloride (143 mg) and acetonitrile (5 mL) were mixed together. While this mixture was cooled in a salt-ice bath, 4-chlorobenzenesulfonyl chloride (350 mg) was added in portions and the mixture was further stirred for 1 hour. Subsequently, water (5 mL) was added and the mixture was extracted with ethyl acetate (2×30 mL). The ethyl acetate extracts were combined, washed with saturated brine (2×5 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=ethyl acetate) to give (2S,4S)-1-[2-[(4-chlorophenyl)sulfonyloxy]acetyl]-4-fluoropyrr olidine-2-carbonitrile as a white solid (256 mg, 49% yield).

reactant | (2S,4S)-4-fluoro-1-(2-hydroxyacetyl)pyrrolidine-2-carboni trile | 259 mg | F[C@H]1C[C@H](N(C1)C(CO)=O)C#N | C7H9FN2O2
reactant | triethylamine | 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylamine hydrochloride | 143 mg | Cl.CN(C)C
reactant | 4-chlorobenzenesulfonyl chloride | 350 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | water | 5 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (2S,4S)-1-[2-[(4-chlorophenyl)sulfonyloxy]acetyl]-4-fluoropyrr olidine-2-carbonitrile | 256 mg, 49% yield | ClC1=CC=C(C=C1)S(=O)(=O)OCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C13H12ClFN2O4S
